US07049313B2
3-Morpholin-4-yl-1-thianthren-1-yl-3-thioxo-propan-1-one
Morpholine (0.96 ml, 11 mmol) was added to a solution of 3-oxo-3-thianthren-1-yl-dithiopropionic acid ethyl ester (3.99 g, 11 mmol) in ethanol (20 ml). The reaction was refluxed for 8 hours and was then cooled to room temperature. The precipitate formed was filtered and dried to give the desired product as a bright orange solid (3.50 g, 82%). m/z (LC-MS, ESP), RT=4.81 and 5.33 min same (M+1)=388

reactant | Morpholine | 11 mmol, 0.96 ml | N1CCOCC1 | C4H9NO
reactant | 3-oxo-3-thianthren-1-yl-dithiopropionic acid ethyl ester | 11 mmol, 3.99 g | C(C)SC(CC(C1=CC=CC=2SC3=CC=CC=C3SC12)=O)=S | C17H14OS4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Morpholin-4-yl-1-thianthren-1-yl-3-thioxo-propan-1-one | 3.50 g, 82% | N1(CCOCC1)C(CC(=O)C1=CC=CC=2SC3=CC=CC=C3SC12)=S | C19H17NO2S3
